*
* .CONNECT statements
*
.CONNECT GROUND 0


* ELDO netlist generated with ICnet by 'dlavila' on Wed Nov 27 2013 at 13:53:58

*
* MAIN CELL: Component pathname : $SC_filter/default.group/logic.views/SCF_ota
*
        M25 CMFB CMFB AVDD AVDD p_18_mm l=1u w=4u ad=1.08p as=1.3p pd=4.54u
+  ps=5.65u m=8
        M3 VO- VB3 N$348 AGND n_18_mm l=0.45u w=2u ad=0.54p as=0.76p pd=2.54u
+  ps=3.76u m=4
        M21 VB3 VB3 VB4 AGND n_18_mm l=0.45u w=2u ad=0.54p as=0.98p pd=2.54u
+  ps=4.98u m=2
        M7 VO- VB2 N$965 AVDD p_18_mm l=0.3u w=2u ad=0.54p as=0.65p pd=2.54u
+  ps=3.15u m=8
        M13 N$348 N$559 AGND AGND n_18_mm l=0.45u w=2u ad=0.54p as=0.76p
+  pd=2.54u ps=3.76u m=4
        M19 VB4 VB4 AGND AGND n_18_mm l=0.45u w=2u ad=0.98p as=0.98p pd=4.98u
+  ps=4.98u m=1
        M3B N$19 N$559 AGND AGND n_18_mm l=0.45u w=2u ad=0.54p as=0.98p
+  pd=2.54u ps=4.98u m=2
        M10 N$1000 CMFB AVDD AVDD p_18_mm l=1u w=4u ad=1.08p as=1.3p pd=4.54u
+  ps=5.65u m=8
        M9 N$965 CMFB AVDD AVDD p_18_mm l=1u w=4u ad=1.08p as=1.3p pd=4.54u
+  ps=5.65u m=8
        M15 IREF IREF AVDD AVDD p_18_mm l=0.5u w=8u ad=3.92p as=3.92p pd=16.98u
+  ps=16.98u m=1
        M11 N$559 VB3 N$19 AGND n_18_mm l=0.18u w=1u ad=0.27p as=0.49p pd=1.54u
+  ps=2.98u m=2
        M12 N$64 N$542 AGND AGND n_18_mm l=0.45u w=2u ad=0.54p as=0.98p
+  pd=2.54u ps=4.98u m=2
        M28 N$1017 VO+ N$1029 AGND n_18_mm l=2u w=2.5u ad=0.675p as=0.744p
+  pd=3.04u ps=3.408u m=16
        M6 N$503 VI- N$435 N$435 p_18_mm l=0.36u w=6u ad=1.62p as=1.95p
+  pd=6.54u ps=8.15u m=8
        M8 VO+ VB2 N$1000 AVDD p_18_mm l=0.3u w=2u ad=0.54p as=0.65p pd=2.54u
+  ps=3.15u m=8
        M18 VB2 N$80 AGND AGND n_18_mm l=0.5u w=2u ad=0.54p as=0.76p pd=2.54u
+  ps=3.76u m=4
        M5 VO+ VB3 N$503 AGND n_18_mm l=0.45u w=2u ad=0.54p as=0.76p pd=2.54u
+  ps=3.76u m=4
        M20 VB2 VB2 VB1 AVDD p_18_mm l=0.3u w=2u ad=0.54p as=0.76p pd=2.54u
+  ps=3.76u m=4
        M31 N$1023 VB4 AGND AGND n_18_mm l=0.45u w=1u ad=0.27p as=0.38p
+  pd=1.54u ps=2.26u m=4
        M29 N$1017 VO- N$1023 AGND n_18_mm l=2u w=2.5u ad=0.675p as=0.744p
+  pd=3.04u ps=3.408u m=16
        M27 CMFB VOCM N$1023 AGND n_18_mm l=2u w=2.5u ad=0.675p as=0.744p
+  pd=3.04u ps=3.408u m=16
        M26 CMFB VOCM N$1029 AGND n_18_mm l=2u w=2.5u ad=0.675p as=0.744p
+  pd=3.04u ps=3.408u m=16
        M16 VB3 IREF AVDD AVDD p_18_mm l=0.5u w=4u ad=1.96p as=1.96p pd=8.98u
+  ps=8.98u m=1
        M1A N$348 VI+ N$435 N$435 p_18_mm l=0.36u w=6u ad=1.62p as=1.95p
+  pd=6.54u ps=8.15u m=8
        M1 N$542 VI+ N$435 N$435 p_18_mm l=0.36u w=6u ad=1.62p as=1.95p
+  pd=6.54u ps=8.15u m=8
        M22 VB1 VB1 AVDD AVDD p_18_mm l=1u w=4u ad=1.08p as=1.52p pd=4.54u
+  ps=6.76u m=4
        M17 N$80 IREF AVDD AVDD p_18_mm l=0.5u w=4u ad=1.96p as=1.96p pd=8.98u
+  ps=8.98u m=1
        M23 N$1017 N$1017 AVDD AVDD p_18_mm l=1u w=4u ad=1.08p as=1.3p pd=4.54u
+  ps=5.65u m=8
        M30 N$1029 VB4 AGND AGND n_18_mm l=0.45u w=1u ad=0.27p as=0.38p
+  pd=1.54u ps=2.26u m=4
        M24 N$80 N$80 AGND AGND n_18_mm l=0.5u w=2u ad=0.54p as=0.76p pd=2.54u
+  ps=3.76u m=4
        M2 N$559 VI- N$435 N$435 p_18_mm l=0.36u w=6u ad=1.62p as=1.95p
+  pd=6.54u ps=8.15u m=8
        M0 N$435 IREF AVDD AVDD p_18_mm l=0.5u w=8u ad=2.16p as=2.6p pd=8.54u
+  ps=10.65u m=8
        M14 N$503 N$542 AGND AGND n_18_mm l=0.45u w=2u ad=0.54p as=0.76p
+  pd=2.54u ps=3.76u m=4
        M4 N$542 VB3 N$64 AGND n_18_mm l=0.18u w=1u ad=0.27p as=0.49p pd=1.54u
+  ps=2.98u m=2
*
.end
